* source TPS72301
C_C1         0 VIN  10u  TC=0,0 
C_C2         0 VOUT  10u  TC=0,0 
R_R_Load         0 VOUT  39 TC=0,0 
R_R1         N08163 VOUT  68k TC=0,0 
R_R2         0 N08163  30k TC=0,0 
X_U1         0 VIN VIN N08163 VOUT TPS72301
V_V1         VIN 0 -5Vdc
